US08183246B2
Add 1.15 g (8.9 mmol) DIEA to 1.0 g (3.0 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine and 0.70 g (5.9 mmol) 6-aminohexanol in 10 ml DMF and heat for 4 h to 120° C. Then dilute the mixture with ethyl acetate, wash with water and dilute hydrochloric acid, dry, and concentrate by evaporation. Purify the residue by RP-HPLC (column: Gromsil 250 mm×40 mm, 10 μm; acetonitrile/water gradient: 0-3 min 5% acetonitrile, 3-34 min 5%→98% acetonitrile, 34-38 min 98% acetonitrile). 364 mg (29% of theor.) 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexan-1-ol is obtained as a yellow oil, which solidifies after standing for 2 days.

reactant | DIEA | 8.9 mmol, 1.15 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 3.0 mmol, 1.0 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | 6-aminohexanol | 5.9 mmol, 0.70 g | NCCCCCCO | C6H15NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}hexan-1-ol | 364 mg, 29% | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCCO)C2=CC=CC=C2 | C25H27N3O3
